US06284756B1
Preparation of 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[4-hydroxy-4-oxobutoxy]phenyl]benzo[b]thiophene
6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[4-methoxy-4-oxobutoxy]phenyl]benzo[b]thiophene (147 mg) was dissolved in THF:MeOH:H2O (3:1:1, 3.0 mL), treated with lithium hydroxide monhydrate (12 mg) in one portion, and allowed to stir at ambient temperature for 4 days. The reaction mixture was neutralized with dilute HCl and concentrated in vacuo. The residue was dissolved in methanol. The solution was transfered to a clean vial and solvent was removed with a stream of nitrogen to give the product as an off-white solid. (100 mg).

reactant | 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[4-methoxy-4-oxobutoxy]phenyl]benzo[b]thiophene | 147 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCCCC(=O)OC)C1 | C32H35NO5S
reactant | lithium hydroxide | 12 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF MeOH H2O | 3.0 mL | C1CCOC1.CO.O
product | 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[4-hydroxy-4-oxobutoxy]phenyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCCCC(=O)O)C1 | C31H33NO5S
